### PR TITLE
[Merged by Bors] - feat(Probability/UniformOn): calculate uniform measure on finite sets

### PR DESCRIPTION
**Pull request by b-mehta**
This PR adds two new lemmas for computing the uniform distribution on finite sets.

### CODE REVIEW

File: Mathlib/Probability/UniformOn.lean [hunk 1]
```diff
@@ -94,8 +94,22 @@ instance instIsProbabilityMeasure_uniformOn_univ [Finite Ω] [Nonempty Ω] :
     IsProbabilityMeasure (uniformOn (.univ : Set Ω)) :=
   isProbabilityMeasure_uniformOn' Set.finite_univ Set.univ_nonempty .univ
 
+lemma uniformOn_apply_finset' {Ω : Type*} [DecidableEq Ω] [MeasurableSpace Ω] {s t : Finset Ω}
```
Comment (RemyDegenne) [inline Mathlib/Probability/UniformOn.lean]:
```suggestion
lemma uniformOn_apply_finset' {Ω : Type*} [DecidableEq Ω] {_ : MeasurableSpace Ω} {s t : Finset Ω}
```
It can and should be inferred from the `MeasurableSet` arguments.

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+

File: Mathlib/Probability/UniformOn.lean [hunk 2]
```diff
@@ -94,8 +94,23 @@ instance instIsProbabilityMeasure_uniformOn_univ [Finite Ω] [Nonempty Ω] :
     IsProbabilityMeasure (uniformOn (.univ : Set Ω)) :=
   isProbabilityMeasure_uniformOn' Set.finite_univ Set.univ_nonempty .univ
 
+omit [MeasurableSpace Ω] in
+lemma uniformOn_apply_finset' [DecidableEq Ω] {_ : MeasurableSpace Ω} {s t : Finset Ω}
```
Comment (b-mehta) [inline Mathlib/Probability/UniformOn.lean]:
```suggestion
lemma uniformOn_apply_finset' {Ω : Type*} [DecidableEq Ω] {_ : MeasurableSpace Ω} {s t : Finset Ω}
```

File: Mathlib/Probability/UniformOn.lean [hunk 3]
```diff
@@ -94,8 +94,23 @@ instance instIsProbabilityMeasure_uniformOn_univ [Finite Ω] [Nonempty Ω] :
...
+  rw [uniformOn, cond_apply hs, Measure.count_apply_finset' hs, ← coe_inter,
+    Measure.count_apply_finset']
+  · rw [div_eq_mul_inv, mul_comm]
+  rw [coe_inter]
+  exact hs.inter ht
+
 variable [MeasurableSingletonClass Ω]
 
+omit [MeasurableSingletonClass Ω] in
+lemma uniformOn_apply_finset [DecidableEq Ω] [MeasurableSingletonClass Ω] {s t : Finset Ω} :
```
Comment (b-mehta) [inline Mathlib/Probability/UniformOn.lean]:
```suggestion
lemma uniformOn_apply_finset [DecidableEq Ω] {s t : Finset Ω} :
```
